US04814329
1,3-bis(3-Oxo-butyl)-5-benzyl-2-thioxo-benzimidazole
14.4 g (60 mmoles) of 5-benzyl-benzimidazoline-2-thione amd 45 ml of methylvinylketone are boiled for 4 hours in the presence of 2 drops of 40%, methynolic Triton B solution. Then the reaction mixture is evaporated off. During storage the distillation residue crystallizes. This is recrystallized from 200 ml of ethanol and thus 19.86 g (87%) of title product melting at a temperature of 98°-100° C. are obtained.

reactant | 5-benzyl-benzimidazoline-2-thione | 60 mmoles, 45 ml, 14.4 g | C(C1=CC=CC=C1)C1=CC2=C(NC(N2)=S)C=C1 | C14H12N2S
reactant | methylvinylketone | CC(=O)C=C | C4H6O
product | 1,3-bis(3-Oxo-butyl)-5-benzyl-2-thioxo-benzimidazole | O=C(CCN1C(N(C2=C1C=CC(=C2)CC2=CC=CC=C2)CCC(C)=O)=S)C | C22H24N2O2S
